US07312359B2
(R)-1-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-3-methyl-urea was prepared by treatment of C-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-methylamine with methyl isocyanate according to the procedure of Najer et al.; Bull. Soc. Chim. Fr.; 1069-1071 (1957).

reactant | C-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-methylamine | FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CN | C17H18FNO2S
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | (R)-1-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-3-methyl-urea | FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCC[C@H](C2=CC1)CNC(=O)NC | C19H21FN2O3S
